US08980943B2
1-Methoxy-6,8-dimethyl-2-oxaspiro[4.5]dec-7-ene
The title compound was prepared from 6,8-dimethyl-2-oxaspiro[4.5]dec-7-en-1-ol and methanol according to Example 1, producing 2 isomers in a ratio of 7:3.

reactant | 6,8-dimethyl-2-oxaspiro[4.5]dec-7-en-1-ol | CC1C2(CCOC2O)CCC(=C1)C | C11H18O2
reactant | methanol | CO | CH4O
product | 1-Methoxy-6,8-dimethyl-2-oxaspiro[4.5]dec-7-ene | COC1OCCC12C(C=C(CC2)C)C | C12H20O2
